US07060844B2
A solution of methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester (50 mg, 0.135 mmol) and pyrrolidine (113 μl, 1.35 mmol) in dioxane (0.8 ml) was heated at 85° C. for 2 minutes and then stirred at room temperature for 4 hours. The reaction was partitioned between EtOAc and water. The EtOAc layer was washed with water, brine, dried with anhydrous Na2SO4 and rotary evaporated to give brown oil. The brown oil was chromatographed (CHCl3 to 2.5% MeOH/CHCl3 gradient) and then recrystallized from EtOAc/hexane to produce 3-[3-(2-pyrrolidin-1-yl-ethyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a yellow solid (25 mg, 54%).

reactant | methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester | 0.135 mmol, 50 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CCOS(=O)(=O)C | C19H17NO5S
reactant | pyrrolidine | 1.35 mmol, 113 μl | N1CCCC1 | C4H9N
solvent | dioxane | 0.8 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(2-pyrrolidin-1-yl-ethyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 25 mg, 54% | N1(CCCC1)CCC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C22H22N2O2
